* NGSPICE file created from nand.ext - technology: gf180mcuD

.subckt nand_f VDD VSS A B Y
X0 VDD B Y VDD pfet_06v0 ad=0.88p pd=4.88u as=0.88p ps=4.88u w=2u l=0.55u
X1 a_1133_169# A Y VSS.t2 nfet_06v0 ad=1.96p pd=3.96u as=0.88p ps=4.88u w=2u l=0.7u
X2 VSS.t1 B a_1133_169# VSS.t0 nfet_06v0 ad=0.88p pd=4.88u as=1.96p ps=3.96u w=2u l=0.7u
X3 Y A VDD VDD pfet_06v0 ad=0.88p pd=4.88u as=0.88p ps=4.88u w=2u l=0.55u
R0 VSS.n2 VSS.t0 1670.28
R1 VSS.n3 VSS.n1 123.862
R2 VSS.n2 VSS.t2 100.62
R3 VSS.t0 VSS.n0 15.3821
R4 VSS.n0 VSS.t1 0.0295354
R5 VSS.n3 VSS.n0 52.7156
R6 VSS VSS.t1 1.11677
R7 VSS.n3 VSS.n2 1.0405
R8 VSS VSS.n3 1.0405
R9 VSS.t2 VSS.n1 1.0405
R10 VSS.n1 VSS.t1 1.00079
C0 a_1133_169# Y 0.0044f
C1 VDD Y 1.28674f
C2 A Y 0.62553f
C3 B Y 0.05761f
C4 a_1133_169# A 0.31791f
C5 VDD A 0.40391f
C6 B a_1133_169# 0.30358f
C7 B VDD 0.40233f
C8 B A 0.14049f
C9 B VSS 1.1362f
C10 Y VSS 0.72759f
C11 A VSS 0.72431f
C12 VDD VSS 4.56424f
C13 a_1133_169# VSS 0.21995f
.ends

